US04472401
5.0 g of ethyl 1-oxo-1H-pyrimido [1,2-a] quinoxaline-2-carboxylate [Hermecz et al., J. Chem. Soc. Perkin I, 789 (1977)] were dissolved in 400 ml of ethyl acetate and 1.0 ml of HCl was added thereto followed by 300 mg of 5% Pd-C. The mixture obtained was hydrogenated for 5 hours at room temperature and atmospheric pressure. On completion of the reaction, the solution was made alkaline with NaHCO3 solution addition and filtered over celite. The organic phase was dried over MgSO4 and evaporated to dryness under nitrogen at 35° C. to obtain 4.2 g (83% yield) of ethyl 5,6-dihydro-1-oxo-1H-pyrimido [1,2-a] quinoxaline-2-carboxylate melting at≃170° C.

reactant | ethyl 1-oxo-1H-pyrimido [1,2-a] quinoxaline-2-carboxylate | 5.0 g | O=C1C(=CN=C2N1C1=CC=CC=C1N=C2)C(=O)OCC | C14H11N3O3
reactant | HCl | 1.0 ml | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd-C | 300 mg | [Pd] | Pd
product | ethyl 5,6-dihydro-1-oxo-1H-pyrimido [1,2-a] quinoxaline-2-carboxylate | 4.2 g, 83% yield | O=C1C(=CN=C2N1C1=CC=CC=C1NC2)C(=O)OCC | C14H13N3O3
